US06498275B1
N-[2-Amino-4-(phenylsulphonyl)phenyl]-2-hydroxy-2-methyl-3,3,3-trifluoropropanamide
A suspension of N-[2-nitro-4-(phenylsulphonyl)phenyl]2-hydroxy-2-methyl-3,3,3-trifluoropropanamide (J. Med. Chem., 1996, 39, 4592) (0.293 g) in methanol (5 ml) was added to a stirred suspension of 10% palladium on carbon (0.03 g) in methanol (2 ml) under an atmosphere of argon. A solution of ammonium formate (0.176 g) in water (2 ml) was added and the mixture was heated under reflux for 2 hours then cooled. Ethyl acetate (20 ml) was added and the mixture was filtered through diatomaceous earth. The filter was washed with ethyl acetate (2×10 ml) and the filtrates were combined, washed with water and brine then dried. Volatile material was removed by evaporation to give the title compound (0.261 g) as a solid. NMR: 1.55 (s, 3H), 5.3 (s, 2H), 7.1 (dd, 1H), 7.3 (d, 1H), 7.4 (m, 2H), 7.5-7.7 (m, 3H), 7.85 (d, 2H), 9.6 (s, 1H); MS (ESP−): 387.

reactant | N-[2-nitro-4-(phenylsulphonyl)phenyl]2-hydroxy-2-methyl-3,3,3-trifluoropropanamide | 0.293 g | [N+](=O)([O-])C1=C(C=CC(=C1)S(=O)(=O)C1=CC=CC=C1)NC(C(C(F)(F)F)(C)O)=O | C16H13F3N2O6S
reactant | ammonium formate | 0.176 g | C(=O)[O-].[NH4+]
reactant | Ethyl acetate | 20 ml | C(C)(=O)OCC | C4H8O2
solvent | methanol | 5 ml | CO | CH4O
catalyst | palladium on carbon | 0.03 g | [Pd] | Pd
solvent | methanol | 2 ml | CO | CH4O
solvent | water | 2 ml | O | H2O
product | N-[2-Amino-4-(phenylsulphonyl)phenyl]-2-hydroxy-2-methyl-3,3,3-trifluoropropanamide | 0.261 g | NC1=C(C=CC(=C1)S(=O)(=O)C1=CC=CC=C1)NC(C(C(F)(F)F)(C)O)=O | C16H15F3N2O4S
